* source CAD_PROJECT
R_R5         0 OUT R_R5 1k TC=0,0 
.model        R_R5 RES R=1 DEV=1% TC1=0 TC2=0
X_TX1    N03643 0 N03521 N03525 SCHEMATIC1_TX1 
X_R6         N04053 N03735 N08279 POT PARAMS: SET={set} VALUE=10k
D_D2         0 N03521 D1N4148 
C_C1         0 N03415  10m  TC=0,0 
D_D4         0 N03525 D1N4148 
X_U3A         N03529 N03735 N03415 0 N03673 TL082
R_R4         0 N04053 R_R4 20k TC=0,0 
.model        R_R4 RES R=1 DEV=1% TC1=0 TC2=0
R_R1         N03529 N03415 R_R1 1k TC=0,0 
.model        R_R1 RES R=1 DEV=1% TC1=0 TC2=0
R_R2         OUT N03743 R_R2 0.3 TC=0,0 
.model        R_R2 RES R=1 DEV=1% TC1=0 TC2=0
D_D3         N03525 N03415 D1N4148 
Q_Q1         N03415 N03673 N03743 Q2N3055
D_D1         N03521 N03415 D1N4148 
R_R7         N03635 N03643 R_R7 1 TC=0,0 
.model        R_R7 RES R=1 DEV=1% TC1=0 TC2=0
Q_Q2         N03673 N03743 OUT Q2N3055
R_R8         N08279 OUT R_R8 2k  
.model        r_R8 RES R=1 DEV=1%
V_V1         N03635 0  
+SIN 0 155.563491861 60 0 0 0
X_D5         0 N03529 awb1n4737 PARAMS:               
.PARAM  r0=10 set=1

.subckt SCHEMATIC1_TX1 1 2 3 4  
K_TX1         L1_TX1 L2_TX1 1
L1_TX1         1 2 100mH
L2_TX1         3 4 10mH
.ends SCHEMATIC1_TX1
